US04302238
To a stirred solution of 40.0 grams (0.23 mole) of diethyl 2-methylmalonate and 50.2 grams (0.46 mole) of bromoethane in 200 ml of dry dimethylformamide was added 79.5 grams (0.58 mole) of potassium carbonate. The resulting mixture was stirred at ambient temperature for 16 hours. A sample of the reaction mixture was subjected to analysis by vapor phase chromatography (VPC), which indicated the reaction had not gone to completion. An additional 50.2 grams of bromoethane was added and the reaction mixture stirred at ambient temperature for three days. VPC analysis indicated the reaction to be 80.9% complete. The reaction mixture was heated to 50° C. where it was stirred for one day. VPC analysis at this time indicated the reaction to be 88.8% complete. The reaction mixture was filtered and the filter cake washed with 200 ml of methylene chloride. The filtrate was diluted with 500 ml of methylene chloride and the combination washed with three portions of 500 ml each of water. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residual oil. The oil was distilled under reduced pressure to give 40.9 grams of diethyl 2-ethyl-2-methylmalonate; bp 109°-112° C./25 mm. The nmr and ir spectra were consistent with the assigned structure.

reactant | diethyl 2-methylmalonate | 0.23 mole, 40.0 grams | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | bromoethane | 0.46 mole, 50.2 grams | BrCC | C2H5Br
reactant | potassium carbonate | 0.58 mole, 79.5 grams | C([O-])([O-])=O.[K+].[K+]
reactant | bromoethane | 50.2 grams | BrCC | C2H5Br
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | diethyl 2-ethyl-2-methylmalonate | 40.9 grams | C(C)C(C(=O)OCC)(C(=O)OCC)C | C10H18O4
